US06498172B1
3-(3-{[(Pyridine-2-sulfonyl)-(4-pyridin-3-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step A was prepared from 3-{3-[(4-pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 11m, and pyridine-2-sulfonyl chloride hydrochloride, of Preparation 47, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.79 (s, 1H), 8.69 (d, 1H), 8.59 (d, 1H), 7.98 (m, 1H), 7.88 (m, 2H), 7.49-7.38 (m, 4H), 7.24 (m, 2H), 7.11 (m, 1H), 7.02 (d, 1H), 6.95 (d, 1H), 6.90 (s, 1H), 4.54 (s, 2H), 4.49 (s, 2H), 3.65 (s, 3H), 2.80 (t, 2H), 2.49 (t, 2H); MS 502 (M+1).

reactant | 3-{3-[(4-pyridin-3-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1C=NC=CC1)=O | C23H24N2O2
reactant | pyridine-2-sulfonyl chloride hydrochloride | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(Pyridine-2-sulfonyl)-(4-pyridin-3-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1C=NC=CC1)S(=O)(=O)C1=NC=CC=C1)=O | C28H27N3O4S
